US04634548
44.5 g of a hydrocarbon mixture containing (according to GC) about 85.4% of 1,1,3,3,5-pentamethyl-4,7-dihydroindane (IIc) are dissolved in 200 ml of 1,2-dichloroethane and treated in accordance with method C described in Example 1 with 0.53 g of molybdenum hexacarbonyl, 0.2 g of disodium hydrogen phosphate and 140 ml of 2.85 molar tert.butyl hydroperoxide solution. After working-up and high vacuum distillation, there are obtained 23.6 g (corresponding to 57.2% yield based on IIc) of 5,6-epoxy-1,1,3,3,5-pentamethyl-4,5,6,7-tetrahydroindane with the following data:

reactant | 1,1,3,3,5-pentamethyl-4,7-dihydroindane | CC1(CC(C=2CC(=CCC12)C)(C)C)C | C14H22
reactant | disodium hydrogen phosphate | 0.2 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | tert.butyl hydroperoxide | 2.85 molar, 140 ml | C(C)(C)(C)OO | C4H10O2
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
catalyst | molybdenum hexacarbonyl | 0.53 g | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Mo]
product | 5,6-epoxy-1,1,3,3,5-pentamethyl-4,5,6,7-tetrahydroindane | 23.6 g, 57.2% yield | O1C2(CC=3C(CC(C3CC21)(C)C)(C)C)C | C14H22O
